*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X5R(-55to85[deg])/1.00e+00[uF]/6.3[V]
* Murata P/N :GXT155R60J105KE01
* Property : C = 1.00e+00[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GXT155R60J105KE01 Port1 Port2
C01 Port1 N01 8.36e-07
R01 Port1 N01 5.00e+07
L02 N01 N02 1.16e-10
R03 N02 N03 1.04e-02
C04 N03 N04 2.59e-05
R04 N03 N04 2.15e+02
C05 N04 N05 3.92e-05
R05 N04 N05 1.09e+01
C06 N05 N06 4.33e-05
R06 N05 N06 9.62e-01
C07 N06 N07 3.90e-05
R07 N06 N07 1.06e-01
C08 N07 N08 2.26e-05
R08 N07 N08 1.85e-02
L09 N08 N09 3.29e-11
R09 N08 N09 2.81e-01
L10 N09 N10 2.43e-11
R10 N09 N10 6.14e-02
L11 N10 N11 1.22e-10
R11 N10 N11 3.10e-02
C12 N11 N12 8.98e-07
L12 N11 N12 5.27e-11
R12 N11 N12 8.91e-03
C13 N12 Port2 2.52e-12
L13 N12 Port2 7.01e-11
R13 N12 Port2 1.17e+01
.ENDS GXT155R60J105KE01
